US05849943
2-(4-(Methylsulfonyl)Phenyl)-3-Phenylmaleic Anhydride
A mixture of 21.4 g (0.10 mol) of 4-(methylsulfonyl) phenylacetic acid [Forrest, et al., J. Chem. Soc. (1948), 1501-1506] and 18.8 g (0.10 mol) of potassium benzoyl formate in 200 mL of Ac2O is stirred and refluxed for 2 h. The reaction mixture is cooled to r.t. and poured into 1L of H2O and stirred until the Ac2O dissolves (ca. 2h). The precipitate is filtered and dried to obtain the title compound. If desired, it is recrystallized from HOAc or acetone.

reactant | 4-(methylsulfonyl) phenylacetic acid | 0.10 mol, 21.4 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C9H10O4S
reactant | potassium benzoyl formate | 0.10 mol, 18.8 g | C(=O)OC(C1=CC=CC=C1)=O.[K]
reactant | H2O | O | H2O
reactant | Ac2O | 200 mL | CC(=O)OC(=O)C | C4H6O3
product | 2-(4-(Methylsulfonyl)Phenyl)-3-Phenylmaleic Anhydride | CS(=O)(=O)C1=CC=C(C=C1)/C=1/C(=O)OC(\C1\C1=CC=CC=C1)=O | C17H12O5S
